US06858627B2
Synthesis of [6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]phenylamine
[6-(2-Methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethylsulfanyl]acetic acid methyl ester 80 mg of 4-bromomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline, 46 mg of potassium carbonate, and 25 μL of methyl 3-mercaptopropionate reacted to give 14 mg of the title compound as a foam.

reactant | [6-(2-Methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethylsulfanyl]acetic acid methyl ester | 80 mg | COC(CSCC1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C)=O | C22H25NO3S
reactant | 4-bromomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline | BrCC1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C19H20BrNO
reactant | potassium carbonate | 46 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 3-mercaptopropionate | 25 μL | SCCC(=O)OC | C4H8O2S
product | [6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]phenylamine | 14 mg | COC1=C(C=CC=C1)C=1C=C2C(=CC(NC2=CC1)(C)C)CNC1=CC=CC=C1 | C25H26N2O
